US06300353B1
Trimethylsulfoxonium iodide (697 mg, 1.2 eq) was added portionwise to a stirred mixture of sodium hydride [60% mineral oil dispersion] (122 mg, 1.15 eq) and dry dimethyl sulfoxide (7 ml) at 0° C. The resulting mixture was stirred at room temperature for 40 min and then cooled in an ice bath. A solution of (2R)-2′,4′,5′-trifluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone (760 mg) in dry dimethyl sulfoxide (2 ml) was added to the mixture and stirring was continued for 2 h at room temperature. The mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed successively with water and brine, and dried over anhydrous sodium sulfate. Evaporation of the solvent gave 2-(2,4,5-trifluorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane ( 810 mg) as a pale yellow oil, which was a mixture of 4 diastereomers and was used for the next step without further purification.

reactant | Trimethylsulfoxonium iodide | 697 mg, 1.2 eq | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 122 mg, 1.15 eq | [H-].[Na+]
reactant | (2R)-2′,4′,5′-trifluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone | 760 mg | FC1=C(C=C(C(=C1)F)F)C([C@@H](C)OC1OCCCC1)=O | C14H15F3O3
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
product | 2-(2,4,5-trifluorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane | 810 mg | FC1=C(C=C(C(=C1)F)F)C1(OC1)[C@@H](C)OC1OCCCC1 | C15H17F3O3
